US05089504
A. Preparation of 3-butyryl-4-chloro-8-hydroxyquinoline
3-butyryl-4-chloro-8-methoxyquinoline (26.3 g, 0.1 mol) in dichloromethane 250 ml) was cooled to -78° C. under nitrogen, and boron tribromide (75 g, 0.3 mol) added slowly. The solution was stirred overnight, warming gradually to room temperature, then quenched with water. The organic solution was separated and evaporated to give the crude product, which was used immediately without further purification.

reactant | 3-butyryl-4-chloro-8-methoxyquinoline | 0.1 mol, 26.3 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C14H14ClNO2
reactant | boron tribromide | 0.3 mol, 75 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 3-butyryl-4-chloro-8-hydroxyquinoline | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)O | C13H12ClNO2
